US04405498
40.0 grams of Sb2O3 were added to a vanadyl oxalate solution prepared by adding 35 grams of oxalic acid (H2C2O4.2H2O) to a warm (~55° C.) aqueous mixture of 16.04 grams of ammonium metavanadate (NH4VO3) in 35 ml of water. The reaction mixture was dried at 110° C. and the vanadium antimonate precursor so obtained was calcined in an air flow at 550° C. for 2 hours.

reactant | antimony trioxide | 40.0 grams | O=[Sb]O[Sb]=O
reactant | vanadyl oxalate | C(=O)(C(=O)[O-])[O-].O=[V+2]
reactant | oxalic acid | 35 grams | C(C(=O)O)(=O)O | C2H2O4
reactant | ammonium metavanadate | 16.04 grams | [NH4+].[O-][V](=O)=O
reactant | water | 35 ml | O | H2O
product | vanadium antimonate | [Sb]([O-])([O-])([O-])=O.[V+5].[Sb]([O-])([O-])([O-])=O.[Sb]([O-])([O-])([O-])=O.[Sb]([O-])([O-])([O-])=O.[Sb]([O-])([O-])([O-])=O.[V+5].[V+5] | InChI=1S/20O.5Sb.3V/q;;;;;15*-1;;;;;;3*+5
